US07029606B2
Bis(4-methoxyphenyl)phenylamine (1).
In a procedure modified from Thayumanavan et al. (Chem Mater., 1997, 9, 3231–3235), to a solution of 4.975 g (5.43 mmol) of tris(dibenzylideneacetone)-dipalladium (0) and 4.519 g (8.15 mmol) of 1,1′-bis(diphenylphosphino)-ferrocene in 680 mL toluene under nitrogen was added 68.46 mL (0.245 mol) of 4-bromoanisole and was allowed to stir for 25 minutes. Then, sodium t-butoxide (59.36 g, 0.618 mol) and aniline (22.5 mL, 0.236 mol) were added to the solution and stirred at 90° C. for approximately 2 weeks. The complete formation of dicoupled product was monitored by thin layer chromatography. The reaction solution was then worked up with several (3×) brine washings, extracted with ether, and dried over MgSO4. A flash column of 5% ethyl acetate/95% hexanes gave a light brown solid. The still crude product was purified on a column with 1% ethyl acetate/99% hexanes mobile phase to afford 20.39 g of white solid. 1H NMR (CDCl3): δ3.98 (s, 6H), δ7.01–7.23 (m, 1H), δ7.36 (d, 2H); m/z 305.1 (M+), 290.1 (M+−CH3).

reactant | 4-bromoanisole | 0.245 mol, 68.46 mL | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | sodium t-butoxide | 0.618 mol, 59.36 g | CC(C)([O-])C.[Na+]
reactant | aniline | 0.236 mol, 22.5 mL | NC1=CC=CC=C1 | C6H7N
reactant | toluene | 680 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 5.43 mmol, 4.975 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 8.15 mmol, 4.519 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Bis(4-methoxyphenyl)phenylamine | 20.39 g | COC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C20H19NO2
